data/oMe_Silver.jsonl
{"reaction_id": "NR-144_1-C#N_2-c1ccc(N(C)C)cc1_3-F_4-C1CCCCC1_5-N(C)C","name": "Michael Addition","level": "medium","reactants_smiles": ["C(C#N)(c1ccc(N(C)C)cc1)=C(F)C(=O)N(C)C","S([H])C1CCCCC1"],"products_smiles": ["S(C1CCCCC1)C(C#N)(c1ccc(N(C)C)cc1)C(F)C(=O)N(C)C"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]C1CCCCC1","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C1CCCCC1)C(C#N)(c1ccc(N(C)C)cc1)C(F)=C([O-])N(C)C","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C1CCCCC1)C(C#N)(c1ccc(N(C)C)cc1)C(F)C(=O)N(C)C","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
{"reaction_id": "NR-105_1-C(F)(F)F_2-OCC_3-S(=O)(=O)N(C)C_4-C2CC2_5-Cc2ccccc2","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(C2CC2)c(S(=O)(=O)N(C)C)c(OCC)c(C(F)(F)F)c1)\\C(=O)OCc2ccccc2"],"products_smiles": ["c1c(C(=O)OCc2ccccc2)[nH]c2c1c(C2CC2)c(S(=O)(=O)N(C)C)c(OCC)c2C(F)(F)F"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(C2CC2)c(S(=O)(=O)N(C)C)c(OCC)c(C(F)(F)F)c1)\\C(=O)OCc2ccccc2","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "Cc2ccccc2OC(=O)C1C=C2C(=[n]1)c(c(c(c2C2CC2)S(=O)(=O)N(C)C)OCC)C(F)(F)F","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OCc2ccccc2)[nH]c2c1c(C2CC2)c(S(=O)(=O)N(C)C)c(OCC)c2C(F)(F)F","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
